US06465472B1
4-Phenylcyclopenta[g]quinazolin-2(1H)-one
To a solution of 5-amino-6-benzoylindane (160 mg, 0.68 mmol) in 6 mL of acetic acid and 0.6 mL of water was added sodium cyanate (53 mg, 0.81 mmol) and the solution was stirred at rt for 3 h. Water was then added to produce a suspension which was filtered and washed with water. The resulting solid was dried under vacuum to give the title compound (139 mg, 79%). 1H NMR (CDCl3): 13.25 (bs, 1H), 7.80 (d, 2H), 7.70 (s, 1H), 7.60 (m, 4H), 3.05 (t, 2H), 2.95 (t, 2H), 2.15 (p, 2H).

reactant | 5-amino-6-benzoylindane | 0.68 mmol, 160 mg | NC=1C=C2CCCC2=CC1C(C1=CC=CC=C1)=O | C16H15NO
reactant | sodium cyanate | 0.81 mmol, 53 mg | [O-]C#N.[Na+]
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | water | 0.6 mL | O | H2O
product | 4-Phenylcyclopenta[g]quinazolin-2(1H)-one | 139 mg, 79% | C1(=CC=CC=C1)C=1NC(NC2=CC=3C(=CC12)C=CC3)=O | C17H12N2O
